US04537886
6β-[D,2-(2-(4-Nitrophenyl)-3-pyrazolin-5-one-4-carbonyl amino)-2-(4-hydroxy phenyl)] acetamido penicillanic acid (sodium salt)
The free penicillanic acid of the title compound was prepared in the same manner as in Example 11(c), except that amoxycillin trihydrate was used in place of ampicillin. The free acid possessed δ(CD3OD) 1.50, 1.57(2×3H, 2s, gem dimethyls), 4.37 (1H, s, C3 penicillin proton), 5.58 (2H, m, C5 and C6 penicillin protons), 5.78 (1H, s, --CH--CONH--), 6.85(2H, d, J9 Hz, 2 aryl protons), 7.43 (2H, d, J9Hz 2 aryl protons), 7.85 (2H, d, J8Hz, 2 aryl protons), 8.30 (2H, d, J8Hz, 2 aryl protons), 8.61 (1H, s, C3 pyrazole proton). The free acid was converted to the sodium salt in a manner analogous to example 6(b). The sodium salt possessed νmax (Nujol) 1760, 1560 cm-1. MIC against E.coli NCTC 10418 5 μg/ml.

reactant | amoxycillin trihydrate | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)C(=O)O)C | C16H19N3O5S
reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | sodium | [Na] | Na
product | penicillanic acid | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
